US07858635B2
To a solution of 4-chloro-2-iodo-phenol 4ii (20.32 g, 0.08 mol), (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol (20.5 g, 0.08 mol) and triphenylphosphine (23.58 g, 0.09 mol) in dry THF (150 mL) was added DEAD (17.4 g, 0.09 mol) at 0° C. under nitrogen atmosphere. After addition, the mixture was stirred at room temperature overnight. The mixture was concentrated to dryness and the residue was basified by Na2CO3 solution (10% 100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with water (2×100 mL) and brine (200 mL), dried over Na2SO4, concentrated to dryness. The residue was purified by column on silica gel to afford 1-benzyl-4-(4-chloro-2-iodo-phenoxymethyl)-1,2,3,6-tetrahydro-pyridine 4iii (30 g). 1H NMR (400 MHz, CDCl3): δ 7.73 (d, J=2.4 Hz, 1H), 7.22-7.38 (m, 6H), 6.70 (d, J=8.8 Hz, 1H), 5.82 (s, 1H), 4.43 (s, 2H), 3.63 (s, 2H), 3.05 (s, 2H), 2.67 (t, J=5.6 Hz, 2H), 2.28 (s, 2H).

reactant | 4-chloro-2-iodo-phenol | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | (1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-methanol | 0.08 mol, 20.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)CO | C13H17NO
reactant | triphenylphosphine | 0.09 mol, 23.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.09 mol, 17.4 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-benzyl-4-(4-chloro-2-iodo-phenoxymethyl)-1,2,3,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CCC(=CC1)COC1=C(C=C(C=C1)Cl)I | C19H19ClINO
